US06316658B1
Into a 200-ml four-necked flask provided with a reflux condenser, a stirrer and a thermometer were fed 4.36 g (0.02 mol) of 2-bromo-6-nitrophenol, 16.7 g (0.1 mol) of 24% sodium hydroxide, 20 ml of 1,4-dioxane and 7 ml of water. The mixture was heated to 80° C. The mixture was stirred at that temperature for 11 hours with heating while chlorodifluoromethane (flon 22) was blown thereinto from a bomb. The reaction mixture was cooled and then subjected to extraction two times each using 20 ml of ether. The ether layer was washed with 20 ml of 12% sodium hydroxide and then with the same volume of water. Then, the ether layer was dried over anhydrous sodium sulfate and then subjected to distillation to obtain 1.79 g of 3-bromo-2-difluoromethoxynitrobenzene (yield: 33.4%, purity: 98.8%). To the sodium hydroxide washing was added hydrochloric acid to make the washing acidic, and the resulting precipitate was subjected to extraction with ether, to recover 2.2 g of unreacted 2-bromo-6-nitrophenol (recovery ratio: 50%).

reactant | 2-bromo-6-nitrophenol | 0.02 mol, 4.36 g | BrC1=C(C(=CC=C1)[N+](=O)[O-])O | C6H4BrNO3
reactant | sodium hydroxide | 0.1 mol, 16.7 g | [OH-].[Na+]
reactant | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
reactant | chlorodifluoromethane | ClC(F)F | CHClF2
solvent | water | 7 ml | O | H2O
product | 3-bromo-2-difluoromethoxynitrobenzene | 1.79 g, yield: 33.4% | BrC=1C(=C(C=CC1)[N+](=O)[O-])OC(F)F | C7H4BrF2NO3
